US08580800B2
(rac)-4-{1-[4-Fluoro-3-(trifluoromethyl)phenyl]-7-methyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-pyrimido[4,5-d]pyridazin-4-yl}benzonitrile
527 mg (1.0 mmol) of ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-(bromomethyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate were dissolved in 25 ml of dioxane, and 138 mg (3.0 mmol; 3 eq.) of methylhydrazine were added. The mixture was stirred at 120° C. for 1 h and then concentrated. The residue was purified directly by preparative HPLC (column: Gromsil C-18 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). This gave 270 mg (55% of theory) of the target compound.

reactant | ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-(bromomethyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | 1.0 mmol, 527 mg | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)CBr)C1=CC(=C(C=C1)F)C(F)(F)F)=O | C22H16BrF4N3O3
reactant | methylhydrazine | 3.0 mmol, 138 mg, 3 eq. | CNN | CH6N2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (rac)-4-{1-[4-Fluoro-3-(trifluoromethyl)phenyl]-7-methyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-pyrimido[4,5-d]pyridazin-4-yl}benzonitrile | FC1=C(C=C(C=C1)N1C(NC(C2=C1CN(NC2=O)C)C2=CC=C(C#N)C=C2)=O)C(F)(F)F | C21H15F4N5O2
